US05726168
4',6-Dilinolenoyl Raloxifene
This derivative was prepared in a manner similar to Example 1, using 2.6 g (0.005 mol) of Raloxifene HCl, 2 g (0.02 mol) of triethylamine, 20 mg of DMAP, and 3.2 g (0.01 mol) of linolenoyl chloride in 250 mL of THF. The final product was chromatographed on a silica gel column eluted with EtOAc-hexane (8:2). This yielded 3.21 g of the title compound as clear oil.

reactant | Raloxifene HCl | 0.005 mol, 2.6 g | C1=CC(=CC=C1C2=C(C=3C=CC(=CC3S2)O)C(=O)C=4C=CC(=CC4)OCCN5CCCCC5)O.Cl
reactant | triethylamine | 0.02 mol, 2 g | C(C)N(CC)CC | C6H15N
reactant | linolenoyl chloride | 0.01 mol, 3.2 g | CC/C=C/C/C=C/C/C=C/CCCCCCCC(=O)Cl | C18H29ClO
catalyst | DMAP | 20 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | Raloxifene | C1=CC(=CC=C1C2=C(C=3C=CC(=CC3S2)O)C(=O)C=4C=CC(=CC4)OCCN5CCCCC5)O | C28H27NO4S
